US04885301
2-(2-Propoxyphenyl)-6-purinone
A stirred mixture of 4,5-diamino-2-(2-propoxyphenyl)pyrimidin-6-one sulphate (1.5 g) (prepared by the addition of concentrated sulphuric acid to an ethanolic solution of the free base) and formamide (15 ml) was heated in an oil bath (temp. 190°-200° C.) for 70 minutes. When cool the mixture was filtered and the collected solid was washed with ethanol to give a crude product (1.1 g), m.p. 254°-259° C., which was recrystallised from ethanol to give the title compound, 0.72 g, m.p. 263°-265° C.

reactant | 4,5-diamino-2-(2-propoxyphenyl)pyrimidin-6-one sulphate | 1.5 g | S(=O)(=O)(O)O.NC=1N=C(NC(C1N)=O)C1=C(C=CC=C1)OCCC
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | formamide | 15 ml | C(=O)N | CH3NO
product | 2-(2-Propoxyphenyl)-6-purinone | C(CC)OC1=C(C=CC=C1)C1=NC(C2=NC=NC2=N1)=O | C14H12N4O2
